US06482852B2
(b) 3-(3,4-Bis-trifluoromethanesulfonyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester
To 2-tert-Butoxycarbonylamino-3-(3,4-dihydroxy-phenyl)-propionic acid methyl ester (12 g, 38.6 mmol) and triethyl amine (13 mL, 88.7 mmol) in methylene chloride (100 mL) at 0° C. was added N-phenyl-bis(trifluoromethanesulfonimide) (31.6 g, 88.7 mmol). The mixture was allowed to stirred for two days then washed sequentially with 1 N NaOH, 1 N HCl, and brine. The organic layer was dried over magnesium sulfate, concentrated to a solid. The solid was recrystallized from dichloremethane/hexane. MS [M+Na]+ 598. m.p. 80-82° C.

reactant | 2-tert-Butoxycarbonylamino-3-(3,4-dihydroxy-phenyl)-propionic acid methyl ester | 38.6 mmol, 12 g | COC(C(CC1=CC(=C(C=C1)O)O)NC(=O)OC(C)(C)C)=O | C15H21NO6
reactant | triethyl amine | 88.7 mmol, 13 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 88.7 mmol, 31.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,4-Bis-trifluoromethanesulfonyloxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC(C(CC1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)NC(=O)OC(C)(C)C)=O | C17H19F6NO10S2
